US05455273
s) trans-N-benzyl-N-(4-phenyl-3-butenoyl)-4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)-cyclohexylamine
from trans-N-benzyl-4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)cyclohexylamine and 4-phenyl-3-butenoylchloride. Colourless oil. Rf value: 0.26 (alumina, petroleum ether/ethyl acetate/methanol=10:10:1, v:v:v).

reactant | trans-N-benzyl-4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)cyclohexylamine | C(C1=CC=CC=C1)N[C@@H]1CC[C@H](CC1)C1=C(C=C(C=C1)C(=O)OC(C)(C)C)CNC | C26H36N2O2
reactant | 4-phenyl-3-butenoylchloride | C1(=CC=CC=C1)C=CCC(=O)Cl | C10H9ClO
product | trans-N-benzyl-N-(4-phenyl-3-butenoyl)-4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)-cyclohexylamine | C(C1=CC=CC=C1)N(C(CC=CC1=CC=CC=C1)=O)[C@@H]1CC[C@H](CC1)C1=C(C=C(C=C1)C(=O)OC(C)(C)C)CNC | C36H44N2O3
